US04245028
Synthesis of Sodium 2-(2-Ethoxyethoxy)-5-nitrobenzenesulfonate
To a solution of sodium 2-ethoxyethylate prepared by adding 7.3 g of sodium hydride (14.6 g of a 50% suspension in liquid paraffin) to 300 ml of ethyl Cellosolve was added 55 g of sodium 2-chloro-5-nitrobenzenesulfonate. The reaction mixture was heated at 80° to 85° C. with stirring for 30 minutes. After completion of the reaction, the insoluble materials were removed by filtration and from the filtrate 150 ml of ethyl Cellosolve was distilled off under reduced pressure. To the concentrated solution was added 300 ml of isopropyl alcohol and the mixture was cooled with ice. The crystals which thus precipitated were recovered by filtration, washed with 100 ml of isopropyl alcohol and air-dried. Yield: 33 g. Melting Point: 248° to 249° C.

reactant | sodium | [Na] | Na
reactant | sodium hydride | 7.3 g | [H-].[Na+]
reactant | sodium 2-chloro-5-nitrobenzenesulfonate | 55 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)[O-].[Na+]
reactant | ethyl Cellosolve | 300 ml | CCOCCO | C4H10O2
product | Sodium 2-(2-Ethoxyethoxy)-5-nitrobenzenesulfonate | C(C)OCCOC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)[O-].[Na+] | InChI=1S/C10H13NO7S.Na/c1-2-17-5-6-18-9-4-3-8(11(12)13)7-10(9)19(14,15)16;/h3-4,7H,2,5-6H2,1H3,(H,14,15,16);/q;+1/p-1
